US06417221B1
To a solution of 60 ml of acetic acid and 43 ml of acetic anhydride at 0° C., was added slowly 40 g (0.27 mol) of acetone-dicarboxylic acid. The mixture was stirred and the temperature was not allowed to rise above 10° C. The acid was dissolved slowly and a pale yellow precipitate formed. After 3 h the product was filtered, washed with 30 ml of glacial acetic acid and 100 ml of benzene. The white powder obtained was dried at high vacuum to afford 30 g of acetonedicarboxylic acid anhydride (yield 86%). Mp 137-138° C.

reactant | acetic anhydride | 43 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | acetonedicarboxylic acid anhydride | 30 g, yield 86% | CC(=O)C1C(=O)OC1=O | C5H4O4
